US07705042B2
a) 4-Methyl-3-oxo-piperazine-1-carboxylic acid benzyl ester
To a solution of 3-oxo-piperazine-1-carboxylic acid benzyl ester (2.00 g, 8.54 mmol) in DMF (30 mL) was added KOtBu (1.54 g, 13.7 mmol) under Ar. The resulting solution was stirred at room temperature for 15 min and cooled to 0° C. MeI (0.85 mL, 14 mmol) was then added dropwise. The reaction mixture was allowed to warm to room temperature and stirred for 3 h. DMF was removed in vacuo and the residue was chromatographed on silica (5-50% EtOAc:hexane) to obtain the title compound (1.40 g, 66%). 1H-NMR (CDCl3; 400 MHz): δ 7.32 (m, 5H), 5.13 (s, 2H), 4.13 (s, 2H), 3.70 (m, 2H), 3.34 (m, 2H), 2.97 (s, 3H)

reactant | 3-oxo-piperazine-1-carboxylic acid benzyl ester | 8.54 mmol, 2.00 g | C(C1=CC=CC=C1)OC(=O)N1CC(NCC1)=O | C12H14N2O3
reactant | KOtBu | 13.7 mmol, 1.54 g | CC(C)(C)[O-].[K+]
reactant | MeI | 14 mmol, 0.85 mL | CI | CH3I
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 4-Methyl-3-oxo-piperazine-1-carboxylic acid benzyl ester | 1.40 g, 66% | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)C)=O | C13H16N2O3
